US08957074B2
Following general amide formation method 1, 3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester (279 mg, 1.31 mmol, 1.0 eq) was combined with 6-amino-2-methylnicotinic acid (200 mg, 1.31 mmol, 1.0 eq) which gave 3-(6-Amino-2-methyl-pyridine-3-carbonyl)-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester (400 mg) in 88% yield. MS m/z 346.6 (M+H)+.

reactant | 3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | 1.31 mmol, 279 mg, 1.0 eq | C(C)(C)(C)OC(=O)N1C2CNCC1CC2 | C11H20N2O2
reactant | 6-amino-2-methylnicotinic acid | 1.31 mmol, 200 mg, 1.0 eq | NC1=NC(=C(C(=O)O)C=C1)C | C7H8N2O2
product | 3-(6-Amino-2-methyl-pyridine-3-carbonyl)-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | 400 mg, 88% yield | C(C)(C)(C)OC(=O)N1C2CN(CC1CC2)C(=O)C=2C(=NC(=CC2)N)C | C18H26N4O3
